US07456164B2
4-hydroxy-1-[4-(3-pyrrolidin-1-ylpropoxy)-phenyl]cyclo-hexanecarbonitrile
To a stirred suspension of LiAlH4 (0.070 g, 1.85 mmol, 5 eq) in diethyl ether (1.9 mL) was added dropwise at 0° C. a solution of 4-oxo-1-[4-(3-pyrrolidin-1-ylpropoxy)-phenyl]-cyclohexanecarbonitrile (0.12 g, 0.37 mmol) in diethyl ether (5.5 mL). The reaction mixture was stirred at ambient temperature for 4 h. The reaction mixture was cooled to 0° C. and, successively, a solution of water, sodium hydroxide (15% w/v, 0.08 mL) and water again were carefully dropped. After being stirred for 15 min at room temperature, the mixture was filtered over diatomaceous earth and concentrated. The residue was purified by flash chromatography (10 g silica gel, DCM/MeOH (10% NH3) to provide 0.050 g of title compound. 1H NMR (400 MHz, DMSO-D6) δ10.6 (bs, 1H), 7.42 (d, 2H), 7 (d, 2H), 4.1-3.95 (m, 2H), 3.6-3.2 (m, 5H), 3.03-2.87 (m, 2H), 2.15-1.8 (m, 10H), 1.65-1.5 (m, 2H).

reactant | LiAlH4 | 1.85 mmol, 0.070 g, 5 eq | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 4-oxo-1-[4-(3-pyrrolidin-1-ylpropoxy)-phenyl]-cyclohexanecarbonitrile | 0.37 mmol, 0.12 g | O=C1CCC(CC1)(C#N)C1=CC=C(C=C1)OCCCN1CCCC1 | C20H26N2O2
reactant | water | O | H2O
reactant | sodium hydroxide | 0.08 mL | [OH-].[Na+]
solvent | diethyl ether | 1.9 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 5.5 mL | C(C)OCC | C4H10O
product | 4-hydroxy-1-[4-(3-pyrrolidin-1-ylpropoxy)-phenyl]cyclo-hexanecarbonitrile | 0.050 g | OC1CCC(CC1)(C#N)C1=CC=C(C=C1)OCCCN1CCCC1 | C20H28N2O2
